US06316482B1
To a solution of ethyl 3-nitro-2-aminobenzoate (700 mg) in N,N-dimethylaniline (7 ml) was added dropwise isonicotinoyl chloride (2.96 g) at 120° C. for 3 hours. After cooling, the reaction mixture was diluted with ethyl acetate and saturated sodium hydrogen carbonate aqueous solution. The organic layer was separated and washed with brine. The solution was dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=9:1) to give ethyl 3-nitro-2-(4-pyridyl)carbonylaminobenzoate (200 mg).

reactant | ethyl 3-nitro-2-aminobenzoate | 700 mg | [N+](=O)([O-])C=1C(=C(C(=O)OCC)C=CC1)N | C9H10N2O4
reactant | isonicotinoyl chloride | 2.96 g | C(C1=CC=NC=C1)(=O)Cl | C6H4ClNO
solvent | N,N-dimethylaniline | 7 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | ethyl 3-nitro-2-(4-pyridyl)carbonylaminobenzoate | 200 mg | [N+](=O)([O-])C=1C(=C(C(=O)OCC)C=CC1)NC(=O)C1=CC=NC=C1 | C15H13N3O5
